*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2019 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: MLZ1608DR10DT000 (Inductor)
* Property: L=100nH at 25MHz
* Size(LxWxT): 1.6x0.8x0.8mm
* Model Type: Simple Model
* Model Generated on Sep. 16, 2019
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n2
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT MLZ1608DR10DT000_s n1 n2
C1 n1 11 7.18585682E-13
L1 n1 11 1.00000000E-07
R1 n1 11 4.54536772E+02
R2 n2 11 1.40000000E-01
.ENDS MLZ1608DR10DT000_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2019 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: MLZ2012DR22DT000 (Inductor)
* Property: L=220nH at 25MHz
* Size(LxWxT): 2x1.25x0.85mm
* Model Type: Simple Model
* Model Generated on Sep. 16, 2019
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n2
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT MLZ2012DR22DT000_s n1 n2
C1 n1 11 1.47434407E-12
L1 n1 11 2.20000000E-07
R1 n1 11 1.16012784E+03
R2 n2 11 1.30000000E-01
.ENDS MLZ2012DR22DT000_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2019 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: MLZ2012DR47DT000 (Inductor)
* Property: L=470nH at 25MHz
* Size(LxWxT): 2x1.25x1.25mm
* Model Type: Simple Model
* Model Generated on Sep. 16, 2019
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n2
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT MLZ2012DR47DT000_s n1 n2
C1 n1 11 1.04349119E-12
L1 n1 11 4.70000000E-07
R1 n1 11 3.23474942E+03
R2 n2 11 1.80000000E-01
.ENDS MLZ2012DR47DT000_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM18AG102BH1
* Property : Z@100MHz = 1000[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM18AG102BH1 port1 port2
R1 port1 1 858.5
L1 port1 1 1.383e-6
C2 1 2 2.399e-10
R2 2 3 321.0
L2 1 3 3.245e-6
C1 port1 3 6.291e-13
R3 3 4 16.35
L3 3 4 5.690e-7
R4 4 port2 3.300e-1
.ENDS BLM18AG102BH1
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : BLM18AG471SN1
* Property : Z@100MHz = 470[ohm]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1MHz - 3GHz
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT BLM18AG471SN1 port1 port2
R1 port1 1 402.6
L1 port1 1 7.897e-7
C2 1 2 7.973e-10
R2 2 3 128.2
L2 1 3 1.668e-6
C1 port1 3 7.135e-13
R3 3 4 22.69
L3 3 4 6.162e-7
R4 4 port2 2.350e-1
.ENDS BLM18AG471SN1
*----------------------------------------------------------------------

*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2019 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: MLZ2012DR22DT000 (Inductor)
* Property: L=220nH at 25MHz
* Size(LxWxT): 2x1.25x0.85mm
* Model Type: Precise Model
* Model Generated on Sep. 16, 2019
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n2
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT MLZ2012DR22DT000_p n1 n2
C1 13 17 6.21393256E-13
C2 n1 18 1.14933925E-12
L1 n1 11 2.07359206E-08
L2 11 12 8.67872834E-09
L3 12 13 1.85580138E-07
L4 12 17 7.22760844E-07
L5 13 14 4.06089913E-09
L6 14 15 9.44824626E-09
L7 15 16 2.69541591E-08
R1 11 12 2.41075692E+02
R2 12 13 8.72421705E+04
R3 12 17 8.51291551E+02
R4 n2 13 2.06036126E+00
R5 n2 14 1.00557229E+00
R6 n2 15 4.90775895E-01
R7 n2 16 2.39526268E-01
R8 n2 18 2.00000000E+01
R9 n1 n2 1.00000000E+09
.ENDS MLZ2012DR22DT000_p
*----------------------------------------------------------------------
* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES")
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED,
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT,
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES,
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*---------- DMG2305UX Spice Model ----------
.SUBCKT DMG2305UX 10 20 30
*     TERMINALS:  D  G  S
M1 1 2 3 3 PMOS L = 1E-006 W = 1E-006
RD 10 1 0.02969
RS 30 3 0.001
RG 20 2 15.2
CGS 2 3 7.613E-010
EGD 12 30 2 1 1
VFB 14 30 0
FFB 2 1 VFB 1
CGD 13 14 1.28E-009
R1 13 30 1
D1 13 12 DLIM
DDG 14 15 DCGD
R2 12 15 1
D2 30 15 DLIM
DSD 10 3 DSUB
.MODEL PMOS PMOS LEVEL = 3 U0 = 400 VMAX = 1E+006 ETA = 0.001
+ TOX = 6E-008 NSUB = 1E+016 KP = 26.49 KAPPA = 65.74 VTO = -0.8201
.MODEL DCGD D CJO = 5.79E-010 VJ = 0.2973 M = 0.5774
.MODEL DSUB D IS = 3.162E-009 N = 1.241 RS = 0.08353 BV = 1E+006 CJO = 5.653E-011 VJ = 0.008286 M = 0.1128
.MODEL DLIM D IS = 0.0001
.ENDS
*Diodes DMG2305UX Spice Model v1.0 Last Revised 2013/10/22

* LSBHB2012KKTR47     SPICE MODEL  ( General Type )
*--------------------------------------------------------------------------------------------------------
* Model Generated by TAIYO YUDEN Corporation (https://www.yuden.co.jp/en/)
* Version 2.0
* TAIYO YUDEN Control No. 171227NI43EB-FBB
* Copyright(c) 2014 TAIYO YUDEN CO.,LTD. All Rights Reserved.
*--------------------------------------------------------------------------------------------------------
*
* Product Description (link to TY-COMPAS)
* https://ds.yuden.co.jp/TYCOMPAS/or/detail?pn=LSBHB2012KKTR47N&u=M
*
* Products Name : Inductors
*
* Characteristics :
*     Inductance : 0.47 uH , SRF(min) : -Hz , DC Resistance(max) : 0.078 Ohm
*     Rated Current : Saturation :2000 mA , Temp Rise : 1650 mA (40 degC)
*     Case Size : 2.0 x 1.25 / 0.079 x 0.049 [mm/inch] , Thickness : 1 / 0.039 [mm/inch]
*     (Conditions: Temperature = 25 degC , DC Bias Current/Voltage = 0A / 0V)
*
* External Node Assignments :
*
*  1  o---GGG---o  2
*
*--------------------------------------------------------------------------------------------------------
.SubCkt LSBHB2012KKTR47 1 2
****************************
Rdc 1 101 0.068
L0 101 111 0.28588u
L1 111 121 0.027468u
R1 111 121 0.0592
L2 121 131 0.015672u
R2 121 131 0.1
L3 131 2 0.13781u
R3 131 2 20.525
Rp 101 2 843.41
Cp 101 2 0.22289p
****************************
.ends LSBHB2012KKTR47
